US09120749B2
{4-[4-(Aminomethyl)phenylamino]-6-(3-chloro-5-fluoro-4-hydroxyphenyl)quinolin-3-yl}(cyclopropyl)methanone
Following general procedure A-2, tert-butyl 4-[6-(3-chloro-5-fluoro-4-hydroxyphenyl)-3-(cyclopropanecarbonyl)quinolin-4-ylamino]benzylcarbamate (0.127 mmol) was reacted with TFA (2 mL) to afford the desired product (31 mg, 53% over two steps) as a yellow solid: 1H NMR (300 MHz, CD3OD+TFA-d) δ 9.44 (s, 1H), 8.24 (dd, J=8.9, 1.9 Hz, 1H), 8.08-7.96 (m, 2H), 7.69 (d, J=8.4 Hz, 2H), 7.55 (d, J=8.4 Hz, 2H), 7.17-7.06 (m, 1H), 7.06-6.98 (m, 1H), 4.27 (s, 2H), 2.93-2.80 (m, 1H), 1.25-1.11 (m, 4H); ESI MS m/z 462 [C26H21ClFN3O2+H]+; HPLC>99% (AUC), tR=12.22 min.

reactant | tert-butyl 4-[6-(3-chloro-5-fluoro-4-hydroxyphenyl)-3-(cyclopropanecarbonyl)quinolin-4-ylamino]benzylcarbamate | 0.127 mmol | ClC=1C=C(C=C(C1O)F)C=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC=C(CNC(OC(C)(C)C)=O)C=C1 | C31H29ClFN3O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | {4-[4-(Aminomethyl)phenylamino]-6-(3-chloro-5-fluoro-4-hydroxyphenyl)quinolin-3-yl}(cyclopropyl)methanone | 31 mg, 53% | NCC1=CC=C(C=C1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)F)O)Cl)C(=O)C1CC1 | C26H21ClFN3O2
